US06555577B1
A 1M solution of DIBAL-H in toluene (42 ml, 42 mmol) was added dropwise, at −70° C. over 30 min, to a stirred solution of (E)-ethyl 3-(4-bromophenyl)-but-2-enoate (4.55 g, 16.92 mmol) in dry THF (100 ml), and the mixture stirred for 1 h. Methanol (5 ml) was carefully added, followed by 1N HCl (300 ml) and the resulting mixture extracted with ethyl acetate (3×200 ml). The combined organic extracts were washed with brine, dried (Na2SO4), and evaporated to give the crude product as an off-white solid, which was purified by recrystallisation from hot 1:4 ether/n-heptane (250 ml) to give the product (E)-3-(4-bromophenyl)-but-2-en-1-ol as colourless needles: 3.10 g (81%)

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | toluene | 42 mmol, 42 ml | C1(=CC=CC=C1)C | C7H8
reactant | (E)-ethyl 3-(4-bromophenyl)-but-2-enoate | 16.92 mmol, 4.55 g | BrC1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C12H13BrO2
reactant | HCl | 1N, 300 ml | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | Methanol | 5 ml | CO | CH4O
product | (E)-3-(4-bromophenyl)-but-2-en-1-ol | BrC1=CC=C(C=C1)/C(=C/CO)/C | C10H11BrO
